US04620868
Preparation of N-((4,6-dimethoxy-1,3,5-triazin-2-yl)aminocarbonyl)-3-(1,2,3,3,3-pentafluoropropen-1-yl)-2-thiophenesulfonamide
According to steps (1) to (4) in Preparation Examples 1, 3-(1,2,3,3,3-pentafluoropropen-1-yl)-2-thiophenesulfonamide was prepared. A portion (0.3 g) of this substance and 0.311 g of phenyl-N-(4,6-dimethoxy-1,3,5-triazin-2-yl)carbamate were dissolved in 4 ml of dry acetonitrile. To the solution, 0.175 g of 1,8-diazabicyclo-(5,4,0)-7-undecene was added dropwise, and the mixture was subjected to reaction under stirring for 2.5 hours at room temperature. After completion of the reaction, the resulting product was poured into water and acidified with hydrochloric acid. The precipitated crystals were filtered, washed with water and dried to obtain 0.47 g of the object compound having a melting point of 149° to 153° C.

reactant | 3-(1,2,3,3,3-pentafluoropropen-1-yl)-2-thiophenesulfonamide | FC(=C(C(F)(F)F)F)C1=C(SC=C1)S(=O)(=O)N | C7H4F5NO2S2
reactant | phenyl-N-(4,6-dimethoxy-1,3,5-triazin-2-yl)carbamate | 0.311 g | C1(=CC=CC=C1)OC(NC1=NC(=NC(=N1)OC)OC)=O | C12H12N4O4
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | N-((4,6-dimethoxy-1,3,5-triazin-2-yl)aminocarbonyl)-3-(1,2,3,3,3-pentafluoropropen-1-yl)-2-thiophenesulfonamide | 0.47 g | COC1=NC(=NC(=N1)OC)NC(=O)NS(=O)(=O)C=1SC=CC1C(=C(C(F)(F)F)F)F | C13H10F5N5O5S2
